US09102684B2
2-(5-Bromo-2-nitro-phenyl)-2-phenyl-propionic acid methyl ester
NaH (562 mg, 23.4 mmol) is added portion wise to a solution of (5-Bromo-2-nitro-phenyl)-phenyl-acetic acid methyl ester (6.8 g, 19.5 mmol) in DMF (100 mL) at room temperature and stirred at room temperature for 3 hours. MeI (8.3 g, 58.5 mmol) is added to the above mixture at 0° C. The mixture is warmed to room temperature slowly and stirred overnight. The mixture is diluted with saturated aqueous NH4Cl solution and extracted with ethyl acetate (3×100 mL). The combined organic phase is washed with water and brine, dried over Na2SO4, filtered and concentrated to give the product.

reactant | NaH | 23.4 mmol, 562 mg | [H-].[Na+]
reactant | (5-Bromo-2-nitro-phenyl)-phenyl-acetic acid methyl ester | 19.5 mmol, 6.8 g | COC(C(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)[N+](=O)[O-])=O | C15H12BrNO4
reactant | MeI | 58.5 mmol, 8.3 g | CI | CH3I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-(5-Bromo-2-nitro-phenyl)-2-phenyl-propionic acid methyl ester | COC(C(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)[N+](=O)[O-])=O | C16H14BrNO4
